US05144045
(R)-4-Hexadecyl-4-(hydroxymethyl)-2-azetidinone
A mixture of 400 mg of (R)-4-hexadecyl-4-[(phenylmethoxy)methyl]-2-azetidinone, 50 mg of 10% palladium-on-carbon and 20 ml of methanol:acetic acid (1:1) is hydrogenated for 16 hours, then filtered and evaporated. The residue is recrystallized from petroleum ether/ethyl acetate, to give 300 mg of the desired compound as a white solid, mp. 82° C.

reactant | (R)-4-hexadecyl-4-[(phenylmethoxy)methyl]-2-azetidinone | 400 mg | C(CCCCCCCCCCCCCCC)[C@@]1(CC(N1)=O)COCC1=CC=CC=C1 | C27H45NO2
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
solvent | methanol acetic acid | 20 ml | CO.C(C)(=O)O
product | (R)-4-Hexadecyl-4-(hydroxymethyl)-2-azetidinone | 300 mg | C(CCCCCCCCCCCCCCC)[C@@]1(CC(N1)=O)CO | C20H39NO2
